Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
LOC with convulsions as well as LLE weakness and numbness. 

 
Major Surgical or Invasive Procedure:
n/a

 
History of Present Illness:
___ is a ___ year-old R-handed, pmh of ITP, who presents 
with episodes of LOC with convulsions as well as LLE weakness 
and numbness. 

1)
These episodes began 7 months ago, after the birth of her child. 
She describes a sensation of "closing in", followed by dots 
(similar to a "pulsating flashlight") and then room spinning (as 
if in the "twilight zone"). After this, she "passes out". During 
this time, she has been told by her husband that she has 
"shaking all over", sometimes her eyes are closed or sometimes 
they roll back or sometimes they "stare like a zombie". She 
denies tongue biting, but endorses urine incontinence. Duration 
of the shaking typically lasts ___ mins, but today was as long 
as 45 minutes. Occasionally has UI, no TB. After the event, she 
can be dazed. She reports a stutter after event and will repeat 
the same question ("w-w-where am I? w-w-w- am I?").  During 
these episodes, her husband "lets me be" and does not touch her.

These events were initially occurring q3 weeks, then in the last 
month, occurring daily. Today, she felt that she was in and out 
of consciousness since 8 am until her arrival to ED. She reports 
> 20 events today, with a return to baseline between each event. 
One event was up to 45 mins. Another resulted in "passing out on 
the coffee table" and "breaking the coffee table". 

She had no prior epiosdes (to 7 months ago). Denies significant 
stressors - pregnancy was complicated by multiple transfusions, 
but now, she is a stay at home mother of 2 (a ___ year old and a ___ 
month old).  She had a reportedly normal EEG, done as an 
outpatient by her PCP. 
 
Past Medical History:
___:
ITP 
low iron
s/p 2 C-sections
s/p bariatric surgery 

 
Social History:
___
Family History:
Family Hx: No seizures. DM, HTN
 
Physical Exam:
Admission Exam:
Vitals: Pulse: 76, RR: 20, BP: 145/84, O2 sat: 99 RA 
General: Obese woman, lying very comfortably in bed. Awake, 
cooperative, NAD.
HEENT: NC/AT, no scleral icterus, MMM, no lesions noted in 
oropharynx
Neck: Supple, occiput trigger point b/l. 
Pulmonary: nonlabored on RA 
Cardiac: RRR, nl. S1S2, no M/R/G 
Abdomen: ND
Extremities: No C/C/E bilaterally. + SLR on Right. 
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Attentive, able to name ___ backward 
without difficulty. Language is fluent with intact repetition 
and comprehension. Normal prosody. There were no paraphasic 
errors. Pt was able to name both high and low frequency objects. 
 Able to read without difficulty. Speech was not dysarthric. 
Able to follow both midline and appendicular commands. Pt was 
able to register 3 objects and recall ___ -> ___ MC at 5 
minutes. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without 
nystagmus. No skew. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis 
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  *
R  5    ___   ___  5   5    5  5     5     5   
*Limited by poor effort and giveway: able to lift L IP 
antigravity and then shakes in air. Ham at least 4 with giveway. 
Unable to straighten leg for quad testing (at least 3 as able to 
bear weight on gait -see below). No movement in TA or Gas. ___ 
at least 4 with giveway
+Hoover Sign 

-Sensory: No deficits to light touch, pinprick, cold sensation, 
vibratory sense, proprioception UE or RLE. No sensation to 
LT/pp/cold/vibration/proprioception on LLE; no pattern. On spine 
testing, endorses loss of sensation to pp ~L2 on Right, ~L4 on 
Left. extinction to DSS on L.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF bilaterally or HKS on RLE.

-Gait: Lifts leg to side of the bed. Upon standing, reaches out 
to hold computer and asks to hold my hand. Crouched when 
standing. Drags her left foot forward first, across floor then 
slowly bears weight on left leg and takes a step with right 
foot. When told to sit, she turns towards bed and initially lets 
go of my hands quickly; for this moment, able to bear weight 
unassisted. Then holds my hands as she has to turn the opposite 
way due to presence of lines. 

 
Pertinent Results:
Labs: 
___ 05:30AM BLOOD WBC-9.0 RBC-4.48 Hgb-10.8* Hct-37.2 
MCV-83 MCH-24.1* MCHC-29.0* RDW-15.8* RDWSD-47.7* Plt Ct-82*
___ 05:30AM BLOOD Glucose-96 UreaN-13 Creat-0.8 Na-143 
K-4.0 Cl-109* HCO3-25 AnGap-13
___ 12:13AM BLOOD ALT-15 AST-18 AlkPhos-107* TotBili-0.3
___ 05:30AM BLOOD Calcium-8.8 Phos-3.9 Mg-2.5
___ 12:13AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

Imaging:
CTH W/O contrast ___
IMPRESSION:
No hemorrhage or mass effect on this unenhanced scan. 

CT C-spine w/o contrast ___
IMPRESSION: 
No evidence to suggest acute cervical spine fracture.  
Triangular ossific
density below the anterior inferior C5 vertebral body could be 
degenerative as there is no clear acute donor site, no 
associated prevertebral soft tissue swelling or splaying of the 
spinous processes.  Correlate with clinical assessment if there 
is clinical concern for acute ligamentous injury, MR could be 
considered to further evaluate.

 
Brief Hospital Course:
This is a ___ yo woman with pmhx of ITP who presented with 
episodes of LOC during which she reportedly has whole body 
shaking. These episodes started circa 7 months ago after the 
birth of her child. They used to occur intermittently every 3 
weeks but recently have increased in frequency. She was placed 
on cvEEH which did nit show any EEG correlate. Furthermore, she 
was observed during these episodes and several features were 
noted that also confirm PNES. 
It was recommended that she follows up with psychiatry as 
outpatient. 
In addition she complained about LLE weakness/numbness. Her exam 
was limited by very poor effort. In addition she has been able 
to walk and bear weight on her legs while standing. Furthermore, 
exam notable for no LT/pp/prioprioception/cold sensation, 
retained reflexes/ tone as well as positive Hoover Sign. CT 
C-spine was ordered which showed an ossific density below C5 
which could represent DJD or ligamentous injury. MRI C-spine was 
ordered and showed no evidence to suggest acute cervical spine 
fracture, although triangular ossific density below the anterior 
inferior C5 vertebral body could be suggestive of degenerative 
process.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ClonazePAM 2 mg PO QHS:PRN anxiety 

 
Discharge Medications:
1.  Acetaminophen w/Codeine ___ TAB PO Q8H:PRN Pain - Moderate 
Take as needed up to a maximum of three per day.  
RX *acetaminophen-codeine [Tylenol-Codeine #3] 300 mg-30 mg ___ 
tablet(s) by mouth every eight (8) hours Disp #*5 Tablet 
Refills:*0 
2.  ClonazePAM 2 mg PO DAILY:PRN anxiety   

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Psychogenic Non-Epileptic Seizures

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,
    ___ were admitted for evaluation of events that were 
concerning for seizures.  ___ were evaluated by the neurology 
service and monitored on EEG (a test looking for brain activity 
of seizures).  After evaluation, your events were felt to NOT be 
epileptic seizures.  Your history and events were consistent 
with PNES (Psychogenic Non-Epileptic Seizures).  This is a 
syndrome where people respond to stress and social issues in a 
way similar, but different to seizures.  Seizure medicines 
cannot treat this.  Instead, we recommend psychiatric 
counseling, stress management, and consideration for 
Anti-depressants/anxiety agents on an outpatient basis.  ___ 
should still follow with neurology, to ensure ___ do well 
outside the hospital.
    Additionally, ___ also had left lower extremity weakness and 
sensory change.  No clear neurologic explanation was found, but 
evaluation and MRI were reassuring.  ___ were walking well in 
the hospital and your doctors expect ___ to continue to improve.
It was a pleasure taking care of ___.
Your ___ Care Team
 
Followup Instructions:
___